US05763560
EU Patent No. 102,450 discloses a method in which potassium tert-butoxide is reacted with p-hydroxybenzaldehyde, then the resultant compound is reacted to di-t-butyldicarbonate to obtain p-tert-butoxycarbonyloxy benzaldehyde, which is subjected to the Wittig reaction where the compound is reacted to methyl bromide triphenylphosphine to obtain p-tert-butoxycarbonyloxystyrene.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | di-t-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | p-tert-butoxycarbonyloxy benzaldehyde | C(C)(C)(C)OC(=O)OC1=CC=C(C=O)C=C1 | C12H14O4
